US08703810B2
Step 2: (R)-2-Methylbutane-1,4-diyl dimethanesulfonate
To a solution of (R)-2-methylbutane-1,4-diol (30 g, 0.29 mol) in DCM (600 mL) was added triethylamine (100 mL, 0.72 mol). The solution was cooled to −20° C., and methanesulfonyl chloride (49 mL, 0.63 mol) was added dropwise over 30 min with vigorous stirring. The resulting mixture was stirred for additional 1 h while the temperature was maintained between −20 and −15° C. The mixture was allowed to warm to 0° C. and then poured into cold 1N HCl solution (100 mL). The organic layer was separated, and aqueous phase was extracted with DCM (100 mL). The combined organic extracts were washed with sat'd NaHCO3 solution, brine, dried over MgSO4, filtered and concentrated in vacuo. The resulting product (75.9 g, quant) was used directly for the next step. 1H NMR (400 MHz, CDCl3): δ 4.41-4.24 (m, 2H), 4.12 (dq, 2H), 3.02 (d, 6H), 2.13 (td, 1H), 1.95 (td, 1H), 1.80-1.65 (m, 1H), 1.07 (d, 3H).

reactant | (R)-2-methylbutane-1,4-diol | 0.29 mol, 30 g | C[C@@H](CO)CCO | C5H12O2
reactant | triethylamine | 0.72 mol, 100 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.63 mol, 49 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | DCM | 600 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-Methylbutane-1,4-diyl dimethanesulfonate | CS(=O)(=O)OC[C@@H](CCOS(=O)(=O)C)C | C7H16O6S2
